US04290947
A suspension of (3S,4R)-3-[(R)-1-hydroxyethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxo-3-diazopropyl]azetidin-2-one (56.4 mg, 0.15 mmol) and rhodium (II) acetate (0.1 mg) in dry benzene (3 ml) is deoxygenated by bubbling through nitrogen for 10 minutes. The mixture is then heated to 78° C. for 1 hour. During heating the solid starting material gradually goes into solution. The mixture is then cooled, filtered to remove the catalyst, and the filtrate is concentrated in vacuo to yield (5R,6S) p-nitrobenzyl 6-[(R)-1-hydroxyethyl]-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate, 51 mg. (98%) as a colorless oil which slowly crystallized at room temperature (22° C.).

reactant | (3S,4R)-3-[(R)-1-hydroxyethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxo-3-diazopropyl]azetidin-2-one | 0.15 mmol, 56.4 mg | O[C@H](C)[C@H]1C(N[C@@H]1CC(C(=[N+]=[N-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C16H16N4O7
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
catalyst | rhodium (II) acetate | 0.1 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | (5R,6S) p-nitrobenzyl 6-[(R)-1-hydroxyethyl]-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | O[C@H](C)[C@@H]1[C@H]2CC(C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H16N2O7
